US07981896B2
4-(3-Methyl-4,5-dihydrobenzo[g]indazol-1-yl)phenol.
1-(4-Methoxyphenyl)-3-methyl-4,5-dihydro-1H-benzo[g]indazole (200 mg, 0.69 mmol) was dissolved in dichloromethane (2 mL) under N2 and cooled to −40° C. Boron tribromide (2.07 mL, 1 M in dichloromethane, 2.07 mmol) was added dropwise and the solution was stirred for 4 hours, warming to room temperature. The reaction mixture was carefully diluted with saturated NaHCO3 solution. The mixture was extracted with dichloromethane, and the extracts were dried over MgSO4 and concentrated. SiO2 chromatography with 20-80% ethyl acetate/hexanes gave 144 mg of the desired product (76% yield). LC-MS (C18H16N2O calculated 276) m/z 277 (M+H).

reactant | 1-(4-Methoxyphenyl)-3-methyl-4,5-dihydro-1H-benzo[g]indazole | 0.69 mmol, 200 mg | COC1=CC=C(C=C1)N1N=C(C=2CCC3=C(C12)C=CC=C3)C | C19H18N2O
reactant | Boron tribromide | 2.07 mmol, 1 M, 2.07 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-(3-Methyl-4,5-dihydrobenzo[g]indazol-1-yl)phenol | 144 mg, 76% yield | CC1=NN(C=2C3=C(CCC12)C=CC=C3)C3=CC=C(C=C3)O | C18H16N2O
